US07829580B2
(c) (E)-3-{[1-(Methoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol
To a solution of (E)-3-[(1H-pyrazol-4-yl)methylidene]-1-(triphenylmethyl)piperidin-4-ol (10.31 g) and methyl bromoacetate (7.0 ml) in N,N-dimethylformamide (150 ml) were added potassium carbonate (10.20 g) and potassium iodide (12.30 g) with stirring at room temperature, and the resulting mixture was refluxed for 1 hour. After water was added, the reaction mixture was extracted with ethyl acetate. The extract was washed with saturated aqueous sodium chloride solution, and the organic layer was dried over anhydrous magnesium sulfate. The solvent was removed in vacuo, and the residue was purified by chromatography on a silica gel column using a mixed solvent of ethyl acetate, hexane, and dichloromethane (2:1:1) as the eluent to afford the title compound (4.74 g, yield: 39%) as a pale yellow amorphous solid.

reactant | (E)-3-[(1H-pyrazol-4-yl)methylidene]-1-(triphenylmethyl)piperidin-4-ol | 10.31 g | N1N=CC(=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C28H27N3O
reactant | methyl bromoacetate | 7.0 ml | BrCC(=O)OC | C3H5BrO2
reactant | potassium carbonate | 10.20 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 12.30 g | [I-].[K+]
solvent | N,N-dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | (E)-3-{[1-(Methoxycarbonylmethyl)-1H-pyrazol-4-yl]methylidene}-1-(triphenylmethyl)piperidin-4-ol | 4.74 g, yield: 39% | COC(=O)CN1N=CC(=C1)\C=C\1/CN(CCC1O)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C31H31N3O3
